US06252082B1
Methyl 6-methyl-3-nitro-2-oxo-4-(phenylthio)-1,2-dihydropyridine-1-acetate
1.5 ml (14.6 mmol) of thiophenol are placed in 20 ml of tetrahydrofuran and 2.1 ml (15.1 mmol) of triethylamine are added. 5.24 g (14 mmol) of methyl 6-methyl-3-nitro-2-oxo-4- [[(trifluoromethyl)sulphonyl]-oxy]-1,2-dihydropyridine-1-acetate are added dropwise at room temperature, the mixture is left for 5 minutes at room temperature and then it is poured over 20 ml of a 1 N aqueous hydrochloric acid solution. The reaction medium is extracted with twice 20 ml of dichloromethane, washed with 20 ml of a saturated sodium chloride solution and dried over magnesium sulphate and evaporated to dryness. The residue is washed with ether and it is dried.

reactant | thiophenol | 14.6 mmol, 1.5 ml | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 15.1 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 6-methyl-3-nitro-2-oxo-4- [[(trifluoromethyl)sulphonyl]-oxy]-1,2-dihydropyridine-1-acetate | 14 mmol, 5.24 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl 6-methyl-3-nitro-2-oxo-4-(phenylthio)-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])SC1=CC=CC=C1 | C15H14N2O5S
